US06727264B1
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and diphenylacetyl chloride: 1H NMR (400 MHz, CDCl3) δ 7.51 (s, 1H), 7.33-7.21 (m, 13H), 6.94 (m, 2H), 4.88 (s, 1H), 3.39 (t, 2H, J=5.6 Hz), 2.93 (d, 2H, J=11.3 Hz), 2.52-2.36 (m, 4H), 1.97 (t, 2H, J=11.3 Hz), 1.83-1.58 (m, 6H), 1.24 (d, 6H, J=7.6 Hz); Anal. Calcd for C32H39N3O2+HCl+0.19CHCl3: C, 69.44; H, 7.27; N, 7.55. Found: C, 69.44; H, 7.43; N, 7.43; ESMS m/e: 498.4 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H39N3O2
